US05976497
EXAMPLE 4: Preparation of 1-t-butoxycarbonyl-3-[4-(5-bromopyridin-2-yl)-piperazin-1-yl]methyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 3-[4-(5-bromopyridin-2-yl)-piperazin-1-yl]methyl-1H-pyrrolo[2,3-b]pyridine (200 mg, 0.54 mmol) and KOH (91 mg, 1.6 mmol) in dichloromethane (2 mL) at room temperature was added di-tert-butyldicarbonate (130 mg, 0.59 mmol). The mixture was stirred at room temperature for 4 h and was then filtered. The residue was washed with dichloromethane and the solvents removed under reduced pressure. The resulting residue was purified by column chromatography on silica gel using ethyl acetate:dichloromethane 7:3 as eluent to give the title compound as a colourless foam (230 mg, 91%). δH (300 MHz CDCl3) 1.67 (9H, s); 2.58 (4H, m, piperazinyl); 3.51 (4H, m, piperzinyl); 3.6 (2H, s); 6.52 (1H, d, J=9.0); 7.19 (1H, dd, J=4.6 and 7.5); 7.51 (1H, dd, J=2.5 and 9.0); 7.54 (1H, s); 8.09 (1H, d, J=7.9); 8.18 (1H, d, J=2.5); 8.51 (1H, d, J=4.2)ESMS 472 (MH+)

reactant | 3-[4-(5-bromopyridin-2-yl)-piperazin-1-yl]methyl-1H-pyrrolo[2,3-b]pyridine | 0.54 mmol, 200 mg | BrC=1C=CC(=NC1)N1CCN(CC1)CC1=CNC2=NC=CC=C21 | C17H18BrN5
reactant | KOH | 1.6 mmol, 91 mg | [OH-].[K+]
reactant | di-tert-butyldicarbonate | 0.59 mmol, 130 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-t-butoxycarbonyl-3-[4-(5-bromopyridin-2-yl)-piperazin-1-yl]methyl-1H-pyrrolo[2,3-b]pyridine | 230 mg, 91% | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=CC2)CN2CCN(CC2)C2=NC=C(C=C2)Br | C22H26BrN5O2
